US05229516
A. 5-(Hexyloxy)-2-methyl-1H-indole-3-acetic acid
To a solution of 5-hydroxy-2-methyl-1H-indole-3-acetic acid (7.17 g, 35.0 mmol) in methanol (40 mL) is added sodium methoxide (70 mmol). The solution is evaporated, dimethylformamide (40 mL) is added followed by hexyl iodide (35.0 mmol). After 2 days the solvent is removed and the residue is partitioned between ethyl acetate and pH=4 buffer. The organic layer is separated, dried over MgSO4 and evaporated to 8.6 g of a brown solid. Recrystallization from ethanol/water affords 6.23 g (62%) of white crystals, m.p. 65°-67° C.

reactant | 5-hydroxy-2-methyl-1H-indole-3-acetic acid | 35.0 mmol, 7.17 g | OC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C11H11NO3
reactant | sodium methoxide | 70 mmol | C[O-].[Na+]
reactant | hexyl iodide | 35.0 mmol | C(CCCCC)I | C6H13I
solvent | methanol | 40 mL | CO | CH4O
product | 5-(Hexyloxy)-2-methyl-1H-indole-3-acetic acid | 6.23 g, 62% | C(CCCCC)OC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C17H23NO3
